US05783522
3-Chloro-2-(4-chloro-3-chloroformylphenyl)-5-trifluoromethylpyridine
23 g of 3-chloro-2-(4-chloro-3-hydroxycarbonylphenyl)-5-trifluoromethylpyridine in 23 ml of thionyl chloride were refluxed for 5 hours. The excess thionyl chloride was then removed by distillation. The remaining dark brown oil was used without further purification for the subsequent reaction.

reactant | 3-chloro-2-(4-chloro-3-hydroxycarbonylphenyl)-5-trifluoromethylpyridine | 23 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)C(=O)O | C13H6Cl2F3NO2
reactant | thionyl chloride | 23 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-Chloro-2-(4-chloro-3-chloroformylphenyl)-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)C(=O)Cl | C13H5Cl3F3NO
